US07288544B2
1) Synthesis of 3-(3,5-dichlorophenyl)-2-propionyl-acrylic methylester:
1.00 g (7.68 mmol) of 3-oxovaleric acid methylester and 1.34 g (7.68 mmol) of 3,5-dichlorobenzaldehyde were dissolved in 20 ml of 2-propanol. 65.4 mg (0.768 mmol) of piperidine and 46.1 mg (0.768 mmol) of acetic acid were added and stirred at room temperature for one day. After the solvent was evaporated under reduced pressure, ethyl acetate was added thereto. The reaction mixture was washed with 1 N hydrochloric acid and then with saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1) to obtain the title compound.

reactant | 3-oxovaleric acid methylester | 7.68 mmol, 1.00 g | COC(CC(CC)=O)=O | C6H10O3
reactant | 3,5-dichlorobenzaldehyde | 7.68 mmol, 1.34 g | ClC=1C=C(C=O)C=C(C1)Cl | C7H4Cl2O
reactant | piperidine | 0.768 mmol, 65.4 mg | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.768 mmol, 46.1 mg | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 3-(3,5-dichlorophenyl)-2-propionyl-acrylic methylester | COC(C(=CC1=CC(=CC(=C1)Cl)Cl)C(CC)=O)=O | C13H12Cl2O3
